US04349674
N-Butylcarbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride
2-Chloro-3-methylquinoxaline (3.572 g., 0.02 mole) was dissolved in 50 ml. of acetone treated with Norit and filtered. The filtrate was added to a solution of 2.645 g. (0.02 mole) n-butylthiourea in 25 ml. acetone. After the mixture was stirred at room temperature for 31/2 hours, the solid which had formed was filtered, washed with acetone, then ether and dried to give 4.86 g. (78.2%) of product as an off-white solid, m.p. 118.5°-119.5°.

reactant | 2-Chloro-3-methylquinoxaline | 0.02 mole, 3.572 g | ClC1=NC2=CC=CC=C2N=C1C | C9H7ClN2
reactant | Norit | C | CH4
reactant | n-butylthiourea | 0.02 mole | C(CCC)NC(=S)N | C5H12N2S
solvent | acetone | CC(=O)C | C3H6O
product | N-Butylcarbamimidothioic acid(3-methyl-2-quinoxalinyl)ester, hydrochloride | Cl.CC=1C(=NC2=CC=CC=C2N1)SC(NCCCC)=N | InChI=1S/C14H18N4S.ClH/c1-3-4-9-16-14(15)19-13-10(2)17-11-7-5-6-8-12(11)18-13;/h5-8H,3-4,9H2,1-2H3,(H2,15,16);1H
